Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Bactrim
 
Attending: ___.
 
Chief Complaint:
Elevated LFTs, bilirubin 
 
Major Surgical or Invasive Procedure:
Liver Biospy

 
History of Present Illness:
Mr. ___ is a ___ year old male with a history of multiple 
myeloma s/p multiple treatments, including numerous chemotherapy 
regimens, Autologous transplant in ___, mini-MUD allogeneic 
transplant in ___, and DLI x4, most recently on ___, 
presenting from clinic with elevated LFTs and a direct 
hyperbilirubinemia. The patient had recently developed evidence 
of graft-versus-host disease after the DLI manifesting as skin 
involvement and elevation of LFTs. He was started on steroids 40 
mg a day, decreased to 30 mg a day last week. His rash has been 
steadily improving. He reports that his skin feels "sandpapery" 
like a sunburn. He also states he has felt more fatigued the 
past several days with new and increasing lower extremity 
swelling. Over the past several weeks, he has also had some 
fullness in his sinus area. Recent CT showed no evidence of 
acute sinusitis and ENT put him on Levaquin for a question of 
infection. He endorses no fevers/chills, nausea/vomiting, 
abdominal pain, constipation/diarrhea, cough, SOB, chest pain. 
 
Past Medical History:
PAST ONCOLOGIC HISTORY:
# ___: Diagnosed with multiple myeloma after admission for
ARF (creatinine 3.0), anemia, hypercalcemia, ___
proteinuria, multiple lytic lesions, and ___ BM involvement.
# ___: VAD x4
# ___: Micro fracture of right hip, s/p IM rodding R femur
# ___: Pulse Cytoxan
# ___: Cytoxan for stem cell mobilization
# ___: Autologous stem cell transplant
# ___: Enrolled in dendritic cell fusion vaccine protocol 
(___) after demonstrating progressive disease
# ___: Thalidomide max dose 200 mg/day, stopped due to 
increasing ___ protein
# ___: Velcade/dexamethasone x2 cycles with disease 
progression
# ___: Cytoxan/dexamethasone
# ___: XRT to left hip and femur
# ___: Revlimid/dexamethasone x2 cycles on expanded access 
and continued on this through ___ (stopped for pancytopenia)
# ___: Admitted for allogeneic stem cell transplant 
(mini-MUD)
with Campath as conditioning regimen. Donor = A antigen 
mismatch.
# ___: DLI c/b GVHD --> disease stability. Started 
Revlimid at low dose, then found to have plasmacytoma in frontal 
bone.
# ___: MRI C-spine shows extensive myelomatous infiltration 
of left lateral mass of C1 with cortical breakthrough; radiation 
to c-spine, frontal mass; started on Velcade, steroids.
# ___: DLI ___ infusion), weekly Velcade
# ___: Increased Velcade to twice weekly
# ___: Admitted for ___, resolved with hydration
# ___: DLI ___ infusion)
.
PAST MEDICAL HISTORY:
# Coronary Artery Disease
- stenting x2 in ___
# DVT
- during auto transplant
# GERD
- decreased in severity recently
# Hypertension
- has been less of an issue
- now on Amlodipine alone
# Hypothyroidism
# Osteoporosis
# Compression fracture
# Depression
# C diff infection
.
PAST SURGICAL HISTORY:
# Rod internal fixation of the right hip
- Fracture in ___.
# Open cholecystectomy 
 
Social History:
___
Family History:
FAMILY HISTORY: 
His mother died of myocardial infarction at age ___.
His maternal uncle died of myocardial infarction at age ___.
His father is alive at ___ with CAD s/p recent CABG and valve 
surgery.
.

 
Physical Exam:
VS: T 96.9, BP 124/84, HR 71, RR 18, sats 100% on RA.  
GENERAL: Well appearing middle aged male in NAD.  
HEENT: Sclera anicteric, PERRLA, EOMI. OP clear without lesions, 
 
no thrush, no mouth sores.  
NECK: Supple without adenopathy  
CARDS: RR, normal S1 S2, no MRG.  
PULM: CTAB no rales rhonchi wheezes.  
ABDOMEN: Soft, + epigastric tenderness, + bowel sounds 
throughout, + mildly tender hepatomegaly.  
EXT: ___ tibial edema bilaterally, 2+ DP and ___ pulses 
bilaterally.  
SKIN: Erythema, skin pealing on back and torso, dry skin on 
hands  

 
Pertinent Results:
ADMISSION LABS:
.
___ 01:50PM BLOOD WBC-5.5 RBC-3.41* Hgb-11.3* Hct-36.0* 
MCV-106* MCH-33.1* MCHC-31.4 RDW-22.4* Plt ___
___ 01:50PM BLOOD Neuts-84* Bands-0 Lymphs-4* Monos-12* 
Eos-0 Baso-0 ___ Myelos-0
___ 12:00AM BLOOD ___ PTT-28.0 ___
___ 01:50PM BLOOD UreaN-29* Creat-0.8 Na-136 K-3.6 Cl-103 
HCO3-27 AnGap-10
___ 01:50PM BLOOD ALT-486* AST-205* LD(LDH)-272* 
AlkPhos-462* TotBili-4.9* DirBili-3.9* IndBili-1.0
___ 12:00AM BLOOD Albumin-2.7* Calcium-7.6* Phos-2.7 Mg-1.6
.
LIVER U/S: The liver appears normal in echotexture without focal 
masses or 
lesions. The previously described right lobe cyst was not 
identified on this examination. Normal flow and waveforms were 
seen within the main portal vein, left and right portal veins. 
Normal flow and waveforms are seen within the main hepatic 
artery. Normal flow and waveforms are seen within the right, 
middle, and left hepatic veins and within the IVC. Flow is 
present within the splenic vein. There is no biliary ductal 
dilatation. 
IMPRESSION: Normal liver vasculature. 
.
___ U/S: 1. No evidence for DVT. 
2. Bilateral ___ cysts, left greater than right. 
.
LIVER BIOPSY:
Liver, needle core biopsy:
Mild portal and lobular inflammation consisting of lymphocytes 
and rare neutrophils, with scattered apoptotic hepatocytes. No 
significant periportal extension/piecemeal necrosis identified.
Foci of dystrophic bile ductular damage with a rare ductular 
infiltrating lymphocyte and rare apoptotic biliary epithelial 
cell. No ductular proliferation seen.
Mild intrahepatocytic and canalicular cholestasis.
No increased steatosis or centrivenular injury identified.
Trichrome stain demonstrates no definite increase in fibrosis.
Iron stain shows mild iron deposition in Kupffer cells.
Note:  The features are consistent with hepatic involvement by 
acute graft host disease. The apoptotic hepatocytes present in 
this case are most likely related to the GVHD (this finding is 
particularly prominent in those cases with a more hepatitic 
presentation), however, a concomitant drug effect cannot be 
entirely excluded. An acute viral hepatitis is unlikely 
(particularly given negative serologies and viral loads). Dr. ___. 
___ notified Dr. ___ of the findings on ___. 

 
Brief Hospital Course:
___ year old male with a history of multiple myeloma s/p multiple 
treatments, including numerous chemotherapy regimens, Autologous 
transplant in ___, mini-MUD allogeneic transplant in ___, 
and DLI x4, most recently on ___, presenting from clinic 
with elevated LFTs and a direct hyperbilirubinemia.  
.  
#. Elevated LFTs/Hyperbilirubinemia: Possible etiologies on 
admission included portal vein clot, Budd-chiari, IVC clot, 
pericarditis, medications, Liver GVHD, hepatitis. Patient had 
negative Hepatitis viral loads in ___.  Levofloxacin and 
atovaquone were discontinued on admission as these can cause 
hepatic failure.  Liver u/s with dopplers showed no clots in the 
liver vasculature and a normal hepatobiliary tree.  Patient's 
LFTs remained elevated, thus decision was made to obtain a liver 
biopsy.  The liver biopsy showed findings consistent with acute 
GVHD of the liver.  Patient was discharged on MMF 250 mg TID, 
and prednisone 30 mg PO daily.
.
#. Eye dryness:  On admission, patient c/o of a "sandpapery" 
feeling on the eyes.  Patient will make an appointment to see 
ophtho for evaluation of GVH of the eye.  He was discharged on 
polyvinyl alcohol-povidone eye drops and will follow-up with 
ophtho in the clinic.

 
Medications on Admission:
 acyclovir 
400 mg Tablet 
1 Tablet(s) by mouth twice a day please dispense 3 month supply  
___
Modified ___,
 ___ 180 Tablet 3 (Three) ___  
  amlodipine 
5 mg Tablet 
1 Tablet(s) by mouth once a day please dispense 90 day supply  
___
Modified ___,
 ___ 90 Tablet 4 (Four) ___  
  atovaquone [Mepron] 
750 mg/5 mL Suspension 
1500 mg by mouth once a day (Prescribed by Other Provider)  
___
Recorded Only ___,
 ___        
  budesonide [Entocort EC] 
3 mg Capsule, Sust. Release 24 hr 
1 Capsule(s) by mouth twice a day PLEASE DISPENSE 90 DAY SUPPLY  
___
Renewed ___,
 ___ 180 Capsule 2 (Two) ___  
  folic acid 
1 mg Tablet 
1 Tablet(s) by mouth daily please dispense 3 month supply  
___
Modified ___,
 ___ 90 Tablet 4 (Four) ___  
  gabapentin 
100 mg Capsule 
2 Capsule(s) by mouth three times a day  ___
Modified ___,
 ___ 180 Capsule 1 (One) ___  
  levofloxacin [Levaquin] 
500 mg Tablet 
1 Tablet(s) by mouth once a day  ___
Modified ___,
 ___ 30 Tablet 0 (Zero) ___  
  levothyroxine [Synthroid] 
50 mcg Tablet 
1 (One) Tablet(s) by mouth once a day 
No Substitution  ___
Renewed ___,
 ___ 90 Tablet 3 (Three) ___  
nr lorazepam [Ativan] 
0.5 mg Tablet 
___ Tablet(s) by mouth every q6h as needed for for 
nausea/anxiety/insomnia  ___
Modified ___,
 ___ 60 Tablet 2 (Two) ___  
  neomycin-polymyxin-HC [Cortisporin] 
3.5 mg/mL-10,000 unit/mL-1 % Solution 
4 gtts to affected ear twice a day  ___
___,
 ___ 1 Bottle 1 (One) ___  
  omeprazole 
20 mg Capsule, Delayed Release(E.C.) 
1 Capsule(s) by mouth once a day please dispense 90 day supply  
___
Modified ___,
 ___ 90 Capsule 2 (Two) ___  
nr oxycodone 
5 mg Tablet 
1 Tablet(s) by mouth every four (4) hours as needed for pain  
___
Modified ___,
 ___ 75 Tablet 2 (Two) ___  
nr oxycodone [OxyContin] 
30 mg Tablet Sustained Release 12 hr 
1 Tablet(s) by mouth twice a day  ___
Renewed ___,
 ___ 60 Tablet 0 (Zero) ___  
  prednisone 
10 mg Tablet 
3 Tablet(s) by mouth once a day (Dose adjustment - no new Rx)  
___
Recorded Only ___,
 ___        
  sertraline 
100 mg Tablet 
0.5 (One half) Tablet(s) by mouth once a day or as directed 
Dispense a 3 month supply (Dose adjustment - no new Rx)  
___
Recorded Only ___,
 ___        
  trazodone 
50 mg Tablet 
1 Tablet(s) by mouth at bedtime as needed for insomnia Please 
dispense 3 month supply  ___
___,
 ___ 90 Tablet 1 (One) ___  
  * OTCs *             
  capsaicin 
0.025 % Cream 
apply thin layer to affected area ___ times daily  ___
___,
 ___ 60 Gram 0 (Zero) ___  
  docusate sodium 
100 mg Capsule 
1 (One) Capsule(s) by mouth twice a day take when taking 
Oxycodone (OTC)  ___
'Not Taking as Prescribed' Removed
Start date: ___ ___,
 ___ 

 
___ Medications:
1. mycophenolate mofetil 250 mg Capsule Sig: One (1) Capsule PO 
TID (3 times a day).
Disp:*90 Capsule(s)* Refills:*0*
2. acyclovir 400 mg Tablet Sig: One (1) Tablet PO Q12H (every 12 
hours).  
3. amlodipine 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

4. budesonide 3 mg Capsule, Sust. Release 24 hr Sig: One (1) 
Capsule, Sust. Release 24 hr PO BID (2 times a day).  
5. folic acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

6. gabapentin 100 mg Capsule Sig: Two (2) Capsule PO TID (3 
times a day).  
7. levothyroxine 50 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
8. lorazepam 0.5 mg Tablet Sig: ___ Tablets PO every four (4) 
hours as needed for insomnia.  
9. neomycin-polymyxin-HC 3.5-10,000-1 mg-unit/mL-% Drops, 
Suspension Sig: Four (4) Drop Otic BID (2 times a day).  
10. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
11. oxycodone 30 mg Tablet Sustained Release 12 hr Sig: One (1) 
Tablet Sustained Release 12 hr PO Q12H (every 12 hours).  
12. oxycodone 5 mg Tablet Sig: One (1) Tablet PO every four (4) 
hours as needed for pain.  
13. prednisone 10 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily).  
14. sertraline 50 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
15. polyvinyl alcohol-povidone 1.4-0.6 % Dropperette Sig: ___ 
Drops Ophthalmic PRN (as needed) as needed for dry eyes.
Disp:*1 bottle* Refills:*0*
16. dexamethasone 0.5 mg/5 mL Elixir Sig: Five (5) ML PO TID (3 
times a day): Swish for ___ minutes and Spit .
Disp:*450 ML(s)* Refills:*2*
17. triamcinolone acetonide 0.1 % Ointment Sig: One (1) Appl 
Topical TID (3 times a day) as needed for rash.
Disp:*1 tube* Refills:*0*
18. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day) as needed for constipation.  
19. senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for daily BMs.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Graft-versus-Host Disease
Multiple Myeloma

 
Discharge Condition:
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
It was a pleasure taking care of you while you were in the 
hospital.  you were admitted to the hospital because you had 
elevated liver enzymes.  You underwent a liver biopsy that 
showed you are having graft versus host disease.

The following changes were made to your medications:
1) You were started on Cellcept 250mg three times a day.  You 
should continue this dosing until you are told to do otherwise.
2) You should also continue your prednisone 30mg daily.
3) You were started on triamcinolone acetonide  0.1 % Ointment
4) You were started on dexamethasone  0.5 mg/5 mL Elixir for 
your mouth
5) You were also started on artificial tears.  
6) We STOPPED your levofloxacin and atovaquone because of your 
elevated liver enzymes.
 
Followup Instructions:
___